US08802661B2
Preparation of 2,2′-(2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethylazanediyl)diacetic acid
A mixture of dimethyl 2,2′-(2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethylazanediyl)diacetate (17 mg, 0.022 mmol) and 1 N sodium hydroxide (0.112 mL, 0.112 mmol) in dioxane (0.5 mL) was heated up at 78° C. for 3 hours. LCMS indicated the formation of desired product. The reaction mixture was filtered and the clear solution was purified by prep HPLC to provide the title compound (10 mg, 59%) as white solid. LCMS: m/e 717.35 (M+H)+, 1.97 min (method 1). 1H NMR (500 MHz, Acetic Acid-d4) δ ppm 8.03 (d, J=7.93 Hz, 2H), 7.30 (d, J=8.24 Hz, 2H), 5.37 (d, J=4.88 Hz, 1H), 4.78 (s, 1H), 4.64 (s, 1H), 4.35-4.14 (m, 4H), 3.94-3.81 (m, 1H), 3.71-3.61 (m, 1H), 3.60-3.49 (m, 2H), 3.18-3.06 (m, 1H), 2.53 (td, J=12.13, 3.51 Hz, 1H), 2.24-2.13 (m, 2H), 1.75 (s, 3H), 2.10-1.09 (m, 19H), 1.08 (s, 3H), 1.06 (s, 3H), 1.05 (s, 3H), 1.01 (s, 3H), 0.99 (s, 3H).

reactant | dimethyl 2,2′-(2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethylazanediyl)diacetate | 0.022 mmol, 17 mg | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)NCCN(CC(=O)OC)CC(=O)OC)C)C)(C)C | C46H66N2O7
reactant | sodium hydroxide | 0.112 mmol, 1 N, 0.112 mL | [OH-].[Na+]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 2,2′-(2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethylazanediyl)diacetic acid | C(=O)(O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)NCCN(CC(=O)O)CC(=O)O)C)C)(C)C | C43H60N2O7
